data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3883,4443,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[nH+:15][c:16]([CH3:17])[o:18][c:19]1=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[NH:15][C:16]1([CH3:17])[O:18][C:19]2=[O:20],water,298.15,31.178987057783807,7.143778089882899
983,1068,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([C:17]([CH3:18])=[O:19])[N+:20]([CH3:21])=[CH:22][C:23]#[N:24].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:17]([CH3:18])=[O:19])[N:20]([CH3:21])[CH:22]2[C:23]#[N:24],water,298.15,18.352671321484344,-21.642072573178105
297,322,[CH2-:11][O+:12]=[CH:13][C:14]([CH3:15])=[O:16].[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([Br:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[CH:13]([C:14]([CH3:15])=[O:16])[O:12][CH2:11]2,water,298.15,6.809753807981481,-52.30935059186694
3539,4037,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[c-:7]1[c:8](=[O:9])[o:10][c:11](-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[n+:18]1[CH3:19]>>[CH2:1]1[CH2:2][C:7]2([C:5]([O:4][CH3:3])=[O:6])[C:8](=[O:9])[O:10][C:11]1([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[N:18]2[CH3:19],water,298.15,26.68109976782144,-6.2029333252922205
3577,4083,[CH3:10][O:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[C:17][C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([CH3:15])[N:16]=[C:17]1[C:18]#[N:19],water,298.15,15.499956159548416,-38.42623331043836
3581,4087,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[CH:10]=[O+:11][C-:12]([CH3:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:12]([CH3:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[O:11][CH:10]1[C:8]([CH3:7])=[O:9],water,298.15,12.543650296791483,-32.02378340397
4836,5518,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:19]([CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:17]([CH3:18])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,37.99025012723001,-8.876637312452726
4449,5081,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:15]=[C:16]1[C:17]#[N:18],water,298.15,17.047603063427978,-39.735444069499366
4911,5595,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[O+:12][C-:13]([C:14](=[O:15])[NH:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[C:24]([CH3:25])=[O:26]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:13]([C:14](=[O:15])[NH:16][CH3:17])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[O:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:24]([CH3:25])=[O:26],water,298.15,24.02817868713657,-28.277740708797165
3025,3382,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C-:7]([CH3:8])[O+:9]=[C:10]([C:11]#[N:12])[C:13]#[N:14]>>[CH2:1]1[CH2:2][C:7]([C:5]([NH:4][CH3:3])=[O:6])([CH3:8])[O:9][C:10]1([C:11]#[N:12])[C:13]#[N:14],water,298.15,11.065975062256936,-51.9796945300759
2269,2514,[CH3:18][NH:19][C:20](=[O:21])[C:22]([C:23]#[N:24])=[NH+:25][CH-:26][c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]#[C:8][C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]2=[C:8]([C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]([C:20]([NH:19][CH3:18])=[O:21])([C:23]#[N:24])[NH:25][CH:26]2[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,15.80666420456868,-37.31235751249688
4965,5652,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[CH:18]=[N+:19]([CH3:20])[N-:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:19]([CH3:20])[CH:18]2[C:16]([CH3:15])=[O:17],water,298.15,32.61330763421269,-3.45630957199318
3403,3870,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[C:11]([CH3:12])=[N+:13]([CH3:14])[C-:15]([CH3:16])[CH3:17]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([O:8][CH3:7])=[O:10])([CH3:12])[N:13]([CH3:14])[C:15]1([CH3:16])[CH3:17],water,298.15,30.55011987326631,-7.543592470939077
